US08084395B2
50 g (0.31 mole) of 4-chloro-2-methylthiopyrimidine is solubilised in 300 mL of hydriodic acid at room temperature. The reaction mixture is stirred at room temperature for 8 hours. The reaction mixture is poured into 1.2 L of water and the pH adjusted to 8 with solid sodium bicarbonate. The mixture is extracted with dichloromethane and washed with sodium thiosulfate. After concentration the oily residue gives 74 g of 4-iodo-2-methylthiopyrimidine.

reactant | 4-chloro-2-methylthiopyrimidine | 0.31 mole, 50 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | water | 1.2 L | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydriodic acid | 300 mL | I | HI
product | 4-iodo-2-methylthiopyrimidine | 74 g | IC1=NC(=NC=C1)SC | C5H5IN2S
